US07241791B2
3-(2,4-dimethoxyphenyl)-7-fluoro-1H-indazole
Prepared according to Method D Step A from (2,4-dimethoxyphenyl)[2,3-difluorophenyl]-methanone (1.60 g, 5.8 mmol), hydrazine hydrate (1.79 mL, 5702 mmol) and DMAP (0.632 g, 57.5 mmol) to give the product (1.66 g) as a yellow solid.

reactant | (2,4-dimethoxyphenyl)[2,3-difluorophenyl]-methanone | 5.8 mmol, 1.60 g | COC1=C(C=CC(=C1)OC)C(=O)C1=C(C(=CC=C1)F)F | C15H12F2O3
reactant | hydrazine hydrate | 5702 mmol, 1.79 mL | O.NN
catalyst | DMAP | 57.5 mmol, 0.632 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(2,4-dimethoxyphenyl)-7-fluoro-1H-indazole | 1.66 g | COC1=C(C=CC(=C1)OC)C1=NNC2=C(C=CC=C12)F | C15H13FN2O2
